US07666901B2
Preparation of (1Z,4S,4aR,5R,6aS,7S)-1-{[t-butylamino]methylene}-7,11 -dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6, 6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin in 2 mL CH2Cl2 is added 49 μL (0.46 mmol) tertbutylamine. The reaction mixture is stirred at room temperature overnight. CH2Cl2 is removed in vacuo. The residue is triturated with Et2O to give 58 mg (50%) product as an orange powder. MS (ESI) m/z 504 (M+1).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | tertbutylamine | 0.46 mmol, 49 μL | C(C)(C)(C)N | C4H11N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (1Z,4S,4aR,5R,6aS,7S)-1-{[t-butylamino]methylene}-7,11 -dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6, 6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 58 mg, 50% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CCC2C=2C(C(=C3/C(/C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/NC(C)(C)C)O)=O)O)C | C27H37NO8
